US04167568
A stirred suspension of 2-(5-amino-2-methoxyphenyl)-8-azapurin-6-one (1.34 g) in acetylacetone (15 ml) was heated at reflux for one hour. The mixture was then cooled and poured into diethyl ether (100 ml). The precipitated solid was filtered off and recrystallised twice from ethanol with the aid of charcoal to give 2-[5-(1-acetylprop-1-en-2-ylamino)-2-methoxyphenyl]-8-azapurin-6-one (1.2 g), m.p. 239°-240° C. (with decomposition).

reactant | 2-(5-amino-2-methoxyphenyl)-8-azapurin-6-one | 1.34 g | NC=1C=CC(=C(C1)C1=NC(C2=NN=NC2=N1)=O)OC | C11H8N6O2
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
reactant | acetylacetone | 15 ml | C(C)(=O)CC(C)=O | C5H8O2
product | 2-[5-(1-acetylprop-1-en-2-ylamino)-2-methoxyphenyl]-8-azapurin-6-one | 1.2 g | C(C)(=O)C=C(C)NC=1C=CC(=C(C1)C1=NC(C2=NN=NC2=N1)=O)OC | C16H14N6O3
